US08110687B2
Step 4: tert-butyl 7-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate
To a solution of 1,2,3,4-tetrahydroisoquinolin-7-ol (2.9 g, 19 mmol) in DMF (2.0 mL) and TEA (14 mL, 97 mmol) at −15° C. was added a solution of di-tert-butyldicarbonate (5.1 g, 23 mmol) in DMF (10 mL) dropwise. After the addition was complete, the reaction mixture was allowed to stir and warm to rt for 2 hr., and then concentrated. The residue was taken with EtOAc and washed with 0.5N aq. HCl and brine successively. Column chromatography (30% EtOAc/hexane) gave the product as a yellow solid (2.0 g, 41% yield). MS: 250. 1H NMR (300 MHz, CDCl3) δ: 6.96 (d, 1H), 6.71 (dd, 1H), 6.66 (d, 1H), 4.50 (t, 2H), 3.61 (m, 2H), 2.73 (m, 2H), and 1.49 (s, 9H).

reactant | 1,2,3,4-tetrahydroisoquinolin-7-ol | 19 mmol, 2.9 g | C1NCCC2=CC=C(C=C12)O | C9H11NO
reactant | di-tert-butyldicarbonate | 23 mmol, 5.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 7-hydroxy-3,4-dihydroisoquinoline-2(1H)-carboxylate | 2.0 g, 41% yield | OC1=CC=C2CCN(CC2=C1)C(=O)OC(C)(C)C | C14H19NO3
